US04579863
B. Trans, trans-N,N'-dimethyl-N,N'-bis-[2-(1-pyrrolidinyl)cyclohexyl]-1,2-benzenediacetamide, dihydrochloride
Trans-N-methyl-2-(1-pyrrolidinyl)-cyclohexanamine (0.365 g) was dissolved in methylene chloride (10 ml) and stirred at room temperature. The di-acid chloride of ortho-phenylenediacetic acid (prepared by the action of thionyl chloride on ortho-phenylenediacetic acid, 0.194 g) dissolved in methylene chloride (10 ml) was added and let stand for 0.5 hour. Ether was added to rapidly stirred solution until no more precipitate appeared. After further rapid stirring for one hour, the precipitate was filtered and dried in a vacuum oven at 90° C. for one hour and stored in a predried bottle. The product was in the form of a white solid (400 mg), mp 261°-263° C.

reactant | Trans-N-methyl-2-(1-pyrrolidinyl)-cyclohexanamine | 0.365 g | CN[C@H]1[C@@H](CCCC1)N1CCCC1 | C11H22N2
reactant | ortho-phenylenediacetic acid | C1(=C(C=CC=C1)CC(=O)O)CC(=O)O | C10H10O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | Ether | CCOCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | trans-N,N'-dimethyl-N,N'-bis-[2-(1-pyrrolidinyl)cyclohexyl]-1,2-benzenediacetamide, dihydrochloride | Cl.Cl.CN(C(CC=1C(=CC=CC1)CC(=O)N([C@H]1[C@@H](CCCC1)N1CCCC1)C)=O)C1C(CCCC1)N1CCCC1 | InChI=1S/C32H50N4O2.2ClH/c1-33(27-15-5-7-17-29(27)35-19-9-10-20-35)31(37)23-25-13-3-4-14-26(25)24-32(38)34(2)28-16-6-8-18-30(28)36-21-11-12-22-36;;/h3-4,13-14,27-30H,5-12,15-24H2,1-2H3;2*1H/t27-,28?,29-,30?;;/m1../s1
